US04588719
4-(3-Bromopropyl)-1-piperidinylindan
Potassium hydroxide (53 g, 87%) is added over a period of 1 hour 15 min to a stirred suspension of 4-hydroxy-1-piperidinylindan (30 g), and tetrabutylammonium chloride (4.1 g) in 1,3-dibromopropane (140 ml) and the resulting mixture stirred at RT under nitrogen for two hours. The reaction mixture is partitioned between ice-water and ether and the aqueous layer separated and extracted with ether. The combined organic extracts are washed with water and ice cold 5% aqueous HCl forming a precipitate which is filtered and washed with ether. The acidic fraction is made strongly alkaline forming an oil precipitate which is extracted into ether. The combined ether layers are washed, dried over Na2SO4, filtered and concentrated in vacuo yielding the desired product as an oil which is used in the next step without further treatment.

reactant | Potassium hydroxide | 53 g | [OH-].[K+]
reactant | 4-hydroxy-1-piperidinylindan | 30 g | OC1=C2CCC(C2=CC=C1)N1CCCCC1 | C14H19NO
reactant | 1,3-dibromopropane | 140 ml | BrCCCBr | C3H6Br2
catalyst | tetrabutylammonium chloride | 4.1 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-(3-Bromopropyl)-1-piperidinylindan | BrCCCC1=C2CCC(C2=CC=C1)N1CCCCC1 | C17H24BrN
